US08623340B2
100 g of 2,4-Dimethyl-5-phenyl-pentanol (obtained as described in EP 0 908 439) combined with 2 g Ru on aluminium oxide (Ru content: 5 wt. %) were hydrogenated in 80 ml cyclohexane at a hydrogen pressure of 22 bar and at a temperature of 105° C. After 18 hours the reaction was finished. The catalyst was removed and the product distilled. 100 g (content: 99.5%) of 5-cyclohexyl-2,4-dimethyl-pentanol were obtained.

reactant | 2,4-Dimethyl-5-phenyl-pentanol | 100 g | CC(CO)CC(CC1=CC=CC=C1)C | C13H20O
reactant | hydrogen | [H][H] | H2
solvent | cyclohexane | 80 ml | C1CCCCC1 | C6H12
product | 5-cyclohexyl-2,4-dimethyl-pentanol | 100 g, 99.5% | C1(CCCCC1)CC(CC(CO)C)C | C13H26O
